US09353081B2
[D] 7-Chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one
A mixture of 6-bromo-7-chloro-1-methyl-3,4-dihydro-1H-quinolin-2-one (0.1 g, 0.36 mmol), bis(pinacolato)diboron (0.13 g, 0.55 mmol), 1,1′-bis(diphenylphosphino) ferrocenedichloro-palladium (II) (14.7 mg, 0.018 mmol), and potassium acetate (0.11 g, 1.08 mmol) in dioxane (3 mL) was heated in a microwave at 100° C. for 3 hr. The mixture was then diluted with EtOAc, washed with water, dried over anhy. Na2SO4, and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, 30% ethyl acetate in hexane) to afford the title product (82 mg, 70% yield) as a white solid. MS: 322.1 (M+H)+.

reactant | 6-bromo-7-chloro-1-methyl-3,4-dihydro-1H-quinolin-2-one | 0.36 mmol, 0.1 g | BrC=1C=C2CCC(N(C2=CC1Cl)C)=O | C10H9BrClNO
reactant | bis(pinacolato)diboron | 0.55 mmol, 0.13 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 1.08 mmol, 0.11 g | C(C)(=O)[O-].[K+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino) ferrocenedichloro-palladium (II) | 0.018 mmol, 14.7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-Chloro-1-methyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-3,4-dihydro-1H-quinolin-2-one | 82 mg, 70% yield | ClC1=C(C=C2CCC(N(C2=C1)C)=O)B1OC(C(O1)(C)C)(C)C | C16H21BClNO3
